US08114874B2
N-(3-Iodo-4-methylphenyl)-4-((4methylpiperazin-1-yl) methyl)-3-(trifluoromethyl)benzamide:
To a flask containing 1.0 g (2.67 mmol) of 4-[(4-methyl-1-piperazinyl)methyl]-3-(trifluoromethyl)-benzoic acid (CAS# 859027-02-4; prepared according to Asaki, T. et al. Bioorg. Med. Chem. Lett. (2006), 16, 1421-1425), 0.62 g (2.67 mmol) of 3-Iodo-4-methylaniline, 0.77 g (4.0 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDAC), and 0.43 g (3.2 mmol) of N-hydroxybenzotriazole monohydrate (HOBt H2O) was added 5 mL of DCM and 5 mL of triethylamine. The solution was stirred at ambient temperature under an atmosphere of N2 for 3 days, concentrated, and the crude product purified by silica gel chromatography (eluted with 100% EtOAc then 10% MeOH/EtOAc), to provide 0.69 g of product as a white solid.

reactant | 4-[(4-methyl-1-piperazinyl)methyl]-3-(trifluoromethyl)-benzoic acid | 2.67 mmol, 1.0 g | CN1CCN(CC1)CC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C14H17F3N2O2
reactant | 3-Iodo-4-methylaniline | 2.67 mmol, 0.62 g | IC=1C=C(N)C=CC1C | C7H8IN
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.0 mmol, 0.77 g | Cl.CN(CCCN=C=NCC)C
reactant | N-hydroxybenzotriazole monohydrate | 3.2 mmol, 0.43 g | O.ON1N=NC2=C1C=CC=C2
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Iodo-4-methylphenyl)-4-((4methylpiperazin-1-yl) methyl)-3-(trifluoromethyl)benzamide | 0.69 g | IC=1C=C(C=CC1C)NC(C1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)=O | C21H23F3IN3O
